* source OPAMP_HLEK3
M_M1         N00303 0 N00462 N00462 pfet  
+ L=2u  
+ W=30u         
M_M3         N00303 N00303 N00291 N00291 nfet  
+ L=2u  
+ W=2u         
M_M4         N00311 N00303 N00291 N00291 nfet  
+ L=2u  
+ W=2u         
M_M6         N00388 N00311 N00291 N00291 nfet  
+ L=2u  
+ W=23u         
M_M2         N00311 N01113 N00462 N00462 pfet  
+ L=2u  
+ W=30u         
M_M8         N00450 N00450 N00392 N00392 pfet  
+ L=2u  
+ W=10u         
M_M5         N00462 N00450 N00392 N00392 pfet  
+ L=2u  
+ W=6u         
M_M7         N00388 N00450 N00392 N00392 pfet  
+ L=2u  
+ W=33u         
I_I1         N00450 N00291 DC 100uAdc  
C_Cc         N00311 N00388  1p  TC=0,0 
V_V1         N00392 0 2.064Vdc
V_V2         N00291 0 -2.064Vdc
V_V3         N01113 0 DC 0Vdc AC 1Vac 
C_CL         N00388 0  2.88p  TC=0,0 
V_V4         N22666 0  
+PULSE 1 -1 0 100p 100p 500n 1u
R_R1         0 N22666  1k TC=0,0 
